* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout iload=121u slew_en=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.023012e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.453407e-01)*u*u + (2.176536e+00)*u + (1.125983e+01)),2.455010e+01),1.132807e+02)}
.param L_a = {min(max(exp((1.272656e-01)*u*u + (1.840660e+00)*u + (-3.553160e+00)),4.233424e-05),1.906577e-04)}
.param R_pl = {min(max(exp((-3.488439e-01)*u*u + (-7.216069e+00)*u + (-2.877275e+01)),1.182376e+03),4.770375e+03)}
.param R_b = {min(max(exp((1.727089e-01)*u*u + (2.670492e+00)*u + (1.453194e+01)),7.071224e+01),3.512186e+02)}
.param L_b = {min(max(exp((1.655869e-01)*u*u + (2.516262e+00)*u + (-1.048577e+00)),2.665232e-05),1.385713e-04)}
.param G0 = {min(max((1.005338e-04)*u*u + (2.833506e-03)*u + (1.944071e-02),5.405385e-04),2.866833e-03)}
.param G1 = {min(max((2.792863e-02)*u*u + (5.208141e-01)*u + (2.333290e+00),-9.246443e-02),-3.196709e-02)}
.param w1 = {min(max(exp((8.700336e-02)*u*u + (1.749393e+00)*u + (2.345996e+01)),2.451478e+06),3.080075e+06)}
.param G2 = {min(max((-3.385655e-02)*u*u + (-6.549813e-01)*u + (-3.103144e+00),1.885546e-05),5.044191e-02)}
.param w2 = {min(max(exp((3.049046e+00)*u*u + (6.046744e+01)*u + (3.117430e+02)),1.784803e+06),4.735331e+08)}
.param G3 = {min(max((-2.833364e-02)*u*u + (-5.460994e-01)*u + (-2.580322e+00),-2.551955e-04),4.044956e-02)}
.param w3 = {min(max(exp((3.302052e+00)*u*u + (6.550092e+01)*u + (3.354033e+02)),5.612725e+05),2.391813e+08)}
.param pcb0 = {min(max((3.440197e-02)*u*u + (6.823396e-01)*u + (3.355651e+00),-3.919610e-04),6.316156e-02)}
.param pcb1 = {min(max((6.269306e-08)*u*u + (1.243752e-06)*u + (6.117900e-06),-5.491490e-10),1.154719e-07)}
.param pcw0 = {min(max(exp((-1.628372e+00)*u*u + (-3.173428e+01)*u + (-1.379136e+02)),5.791742e+05),7.640341e+06)}
.param pcq = {min(max(exp((-1.124698e+00)*u*u + (-2.190560e+01)*u + (-1.050099e+02)),4.975149e-01),2.936710e+00)}
.param gnw = {min(max(exp((-3.050553e-02)*u*u + (-5.246440e-01)*u + (-1.014834e+01)),3.197396e-04),3.743044e-04)}
.param gn1 = {min(max(exp((-1.558720e-01)*u*u + (-2.374450e+00)*u + (-8.537533e+00)),3.331845e-01),1.550581e+00)}
.param gn2 = {min(max(exp((-1.556495e-01)*u*u + (-2.370265e+00)*u + (-9.830725e+00)),8.968233e-02),4.172934e-01)}
.param gn3 = {min(max(exp((-1.564615e-01)*u*u + (-2.385540e+00)*u + (-1.106102e+01)),2.811191e-02),1.308866e-01)}
.param gn4 = {min(max(exp((-1.557851e-01)*u*u + (-2.370908e+00)*u + (-1.197254e+01)),1.043888e-02),4.881206e-02)}
.param gn5 = {min(max(exp((-1.541584e-01)*u*u + (-2.355983e+00)*u + (-1.222966e+01)),8.309214e-03),3.729913e-02)}
.param gn6 = {min(max(exp((-1.759294e+00)*u*u + (-2.990227e+01)*u + (-1.317284e+02)),7.130635e-07),8.769412e-03)}
.param vreg = {min(max((3.616138e-04)*u*u + (5.942501e-03)*u + (9.264816e-01),9.020579e-01),9.045306e-01)}
.param COUT=9.715345e-10 ESR=4.993665e+00    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant). vin->vout coupling is
*      handled ENTIRELY by the PSRR path below (small-signal-consistent: its DC
*      limit g_lf*R_a = the measured PSRR LF). A broadband line-reg term here
*      would create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg 0 V = {vreg}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vreg-VREG121),-4.201167e-03,1.000000e-06,-6.659003e-04,1.300000e-05,4.229287e-04,2.500000e-05,1.136476e-03,3.700000e-05,1.686187e-03,4.900000e-05,2.143736e-03,6.100000e-05,2.542267e-03,7.300000e-05,2.899906e-03,8.500000e-05,3.227687e-03,9.700000e-05,3.532854e-03,1.090000e-04,3.820436e-03,1.210000e-04,4.094077e-03,1.330000e-04,4.356507e-03,1.450000e-04,4.609827e-03,1.570000e-04,4.855692e-03,1.690000e-04,5.095427e-03,1.810000e-04,5.330111e-03,1.930000e-04,5.560629e-03,2.050000e-04,5.787721e-03,2.170000e-04,6.012003e-03,2.290000e-04,6.234001e-03,2.410000e-04,6.454160e-03,2.530000e-04,6.672860e-03,2.650000e-04,6.890432e-03,2.770000e-04,7.107161e-03,2.890000e-04,7.323293e-03,3.010000e-04,7.539048e-03,3.130000e-04,7.754614e-03,3.250000e-04,7.970162e-03,3.370000e-04,8.185841e-03,3.490000e-04,8.401785e-03,3.610000e-04,8.618115e-03,3.730000e-04,8.834940e-03,3.850000e-04,9.052360e-03,3.970000e-04,9.270464e-03,4.090000e-04,9.489339e-03,4.210000e-04,9.709063e-03,4.330000e-04,9.929710e-03,4.450000e-04,1.015135e-02,4.570000e-04,1.037406e-02,4.690000e-04,1.059789e-02,4.810000e-04,1.082293e-02,4.930000e-04,1.097195e-02,5.010000e-04,1.135118e-02,5.210000e-04,1.173436e-02,5.410000e-04,1.212182e-02,5.610000e-04,1.251393e-02,5.810000e-04,1.291110e-02,6.010000e-04,1.331381e-02,6.210000e-04,1.372261e-02,6.410000e-04,1.413816e-02,6.610000e-04,1.456123e-02,6.810000e-04,1.499280e-02,7.010000e-04,1.543406e-02,7.210000e-04,1.588649e-02,7.410000e-04,1.635200e-02,7.610000e-04,1.683306e-02,7.810000e-04,1.733288e-02,8.010000e-04,1.785576e-02,8.210000e-04,1.840751e-02,8.410000e-04,1.899603e-02,8.610000e-04,1.963216e-02,8.810000e-04,2.033068e-02,9.010000e-04,2.111142e-02,9.210000e-04,2.199980e-02,9.410000e-04,2.302592e-02,9.610000e-04,2.422071e-02,9.810000e-04,2.560897e-02,1.001000e-03,2.720205e-02,1.021000e-03,2.899515e-02,1.041000e-03,3.097093e-02,1.061000e-03,3.310619e-02,1.081000e-03,3.537724e-02,1.101000e-03,3.776273e-02,1.121000e-03,4.024462e-02,1.141000e-03,4.280808e-02,1.161000e-03,4.544108e-02,1.181000e-03,4.813392e-02,1.201000e-03,5.087874e-02,1.221000e-03,5.366917e-02,1.241000e-03,5.649996e-02,1.261000e-03,5.936682e-02,1.281000e-03,6.226617e-02,1.301000e-03,6.519501e-02,1.321000e-03,6.815084e-02,1.341000e-03,7.113151e-02,1.361000e-03,7.413519e-02,1.381000e-03,7.716032e-02,1.401000e-03,8.020555e-02,1.421000e-03,8.326970e-02,1.441000e-03,8.635174e-02,1.461000e-03,8.945076e-02,1.481000e-03,9.256599e-02,1.501000e-03,9.569670e-02,1.521000e-03,9.884228e-02,1.541000e-03,1.020022e-01,1.561000e-03,1.051759e-01,1.581000e-03,1.083630e-01,1.601000e-03,1.115630e-01,1.621000e-03,1.147757e-01,1.641000e-03,1.180006e-01,1.661000e-03,1.212376e-01,1.681000e-03,1.244862e-01,1.701000e-03,1.277464e-01,1.721000e-03,1.310178e-01,1.741000e-03,1.343003e-01,1.761000e-03,1.375937e-01,1.781000e-03,1.408979e-01,1.801000e-03,1.442126e-01,1.821000e-03,1.475378e-01,1.841000e-03,1.508733e-01,1.861000e-03,1.542191e-01,1.881000e-03,1.575750e-01,1.901000e-03,1.609410e-01,1.921000e-03,1.643169e-01,1.941000e-03,1.677028e-01,1.961000e-03,1.710986e-01,1.981000e-03,1.745042e-01,2.001000e-03,1.779196e-01,2.021000e-03,1.813448e-01,2.041000e-03,1.847797e-01,2.061000e-03,1.882244e-01,2.081000e-03,1.916789e-01,2.101000e-03,1.951431e-01,2.121000e-03,1.986172e-01,2.141000e-03,2.021010e-01,2.161000e-03,2.055948e-01,2.181000e-03,2.090984e-01,2.201000e-03,2.126120e-01,2.221000e-03,2.161357e-01,2.241000e-03,2.196695e-01,2.261000e-03,2.232136e-01,2.281000e-03,2.267680e-01,2.301000e-03,2.303330e-01,2.321000e-03,2.339085e-01,2.341000e-03,2.374949e-01,2.361000e-03,2.410923e-01,2.381000e-03,2.447009e-01,2.401000e-03,2.483209e-01,2.421000e-03,2.519527e-01,2.441000e-03,2.555964e-01,2.461000e-03,2.592525e-01,2.481000e-03,2.629212e-01,2.501000e-03,2.666030e-01,2.521000e-03,2.702983e-01,2.541000e-03,2.740077e-01,2.561000e-03,2.777315e-01,2.581000e-03,2.814704e-01,2.601000e-03,2.852251e-01,2.621000e-03,2.889963e-01,2.641000e-03,2.927847e-01,2.661000e-03,2.965911e-01,2.681000e-03,3.004166e-01,2.701000e-03,3.042620e-01,2.721000e-03,3.081285e-01,2.741000e-03,3.120173e-01,2.761000e-03,3.159295e-01,2.781000e-03,3.198666e-01,2.801000e-03,3.238300e-01,2.821000e-03,3.278212e-01,2.841000e-03,3.318420e-01,2.861000e-03,3.358940e-01,2.881000e-03,3.399791e-01,2.901000e-03,3.440994e-01,2.921000e-03,3.482570e-01,2.941000e-03,3.524540e-01,2.961000e-03,3.566928e-01,2.981000e-03,3.609760e-01,3.001000e-03,3.653062e-01,3.021000e-03,3.696863e-01,3.041000e-03,3.741192e-01,3.061000e-03,3.786082e-01,3.081000e-03,3.831568e-01,3.101000e-03,3.877686e-01,3.121000e-03,3.924477e-01,3.141000e-03,3.971983e-01,3.161000e-03,4.020251e-01,3.181000e-03,4.069333e-01,3.201000e-03,4.119282e-01,3.221000e-03,4.170161e-01,3.241000e-03,4.222036e-01,3.261000e-03,4.274979e-01,3.281000e-03,4.329071e-01,3.301000e-03,4.384402e-01,3.321000e-03,4.441072e-01,3.341000e-03,4.499189e-01,3.361000e-03,4.558878e-01,3.381000e-03,4.620275e-01,3.401000e-03,4.684535e-01,3.421000e-03,4.749922e-01,3.441000e-03,4.817546e-01,3.461000e-03,4.887625e-01,3.481000e-03,4.960398e-01,3.501000e-03,5.036138e-01,3.521000e-03,5.115144e-01,3.541000e-03,5.197746e-01,3.561000e-03,5.284309e-01,3.581000e-03,5.375223e-01,3.601000e-03,5.470908e-01,3.621000e-03,5.571799e-01,3.641000e-03,5.678337e-01,3.661000e-03,5.790952e-01,3.681000e-03,5.910039e-01,3.701000e-03,6.035935e-01,3.721000e-03,6.168897e-01,3.741000e-03,6.309076e-01,3.761000e-03,6.456509e-01,3.781000e-03,6.611119e-01,3.801000e-03,6.772728e-01,3.821000e-03,6.941078e-01,3.841000e-03,7.115859e-01,3.861000e-03,7.296738e-01,3.881000e-03,7.483383e-01,3.901000e-03,7.675476e-01,3.921000e-03,7.872724e-01,3.941000e-03,8.074862e-01,3.961000e-03,8.281655e-01,3.981000e-03,8.492889e-01,4.001000e-03,8.708372e-01,4.021000e-03,8.927926e-01,4.041000e-03,9.151385e-01,4.061000e-03,9.378590e-01,4.081000e-03,9.609388e-01,4.101000e-03,9.843635e-01,4.121000e-03,1.008119e+00,4.141000e-03,1.032191e+00,4.161000e-03,1.056417e+00,4.181000e-03,1.081088e+00,4.201000e-03,1.106037e+00,4.221000e-03,1.131250e+00,4.241000e-03,1.156714e+00,4.261000e-03,1.182417e+00,4.281000e-03,1.208348e+00,4.301000e-03,1.234493e+00,4.321000e-03,1.260843e+00,4.341000e-03,1.287387e+00,4.361000e-03,1.314113e+00,4.381000e-03,1.341011e+00,4.401000e-03,1.368072e+00,4.421000e-03,1.395287e+00,4.441000e-03,1.422647e+00,4.461000e-03,1.450141e+00,4.481000e-03,1.477764e+00,4.501000e-03,1.505506e+00,4.521000e-03,1.533360e+00,4.541000e-03,1.561318e+00,4.561000e-03,1.589375e+00,4.581000e-03,1.617523e+00,4.601000e-03,1.645755e+00,4.621000e-03,1.674067e+00,4.641000e-03,1.702452e+00,4.661000e-03,1.730904e+00,4.681000e-03,1.759420e+00,4.701000e-03,1.787993e+00,4.721000e-03,1.816619e+00,4.741000e-03,1.845294e+00,4.761000e-03,1.874013e+00,4.781000e-03,1.902773e+00,4.801000e-03,1.931569e+00,4.821000e-03,1.960398e+00,4.841000e-03,1.989257e+00,4.861000e-03,2.018142e+00,4.881000e-03,2.047051e+00,4.901000e-03,2.075979e+00,4.921000e-03,2.104925e+00,4.941000e-03,2.133886e+00,4.961000e-03,2.162859e+00,4.981000e-03,2.191842e+00,5.001000e-03,2.220832e+00,5.021000e-03,2.249828e+00,5.041000e-03,2.278827e+00,5.061000e-03,2.307827e+00,5.081000e-03,2.336827e+00,5.101000e-03,2.365825e+00,5.121000e-03,2.394819e+00,5.141000e-03,2.423807e+00,5.161000e-03,2.452788e+00,5.181000e-03,2.481761e+00,5.201000e-03,2.510724e+00,5.221000e-03,2.539676e+00,5.241000e-03,2.568615e+00,5.261000e-03,2.597541e+00,5.281000e-03,2.626453e+00,5.301000e-03,2.655348e+00,5.321000e-03,2.684227e+00,5.341000e-03,2.713089e+00,5.361000e-03,2.741932e+00,5.381000e-03,2.770755e+00,5.401000e-03,2.799558e+00,5.421000e-03,2.828340e+00,5.441000e-03,2.857101e+00,5.461000e-03,2.885839e+00,5.481000e-03,2.914554e+00,5.501000e-03,2.943245e+00,5.521000e-03,2.971912e+00,5.541000e-03,3.000554e+00,5.561000e-03,3.029171e+00,5.581000e-03,3.057762e+00,5.601000e-03,3.086326e+00,5.621000e-03,3.114864e+00,5.641000e-03,3.143374e+00,5.661000e-03,3.171857e+00,5.681000e-03,3.200311e+00,5.701000e-03,3.228737e+00,5.721000e-03,3.257135e+00,5.741000e-03,3.285503e+00,5.761000e-03,3.313842e+00,5.781000e-03,3.342151e+00,5.801000e-03,3.370430e+00,5.821000e-03,3.398679e+00,5.841000e-03,3.426898e+00,5.861000e-03,3.455085e+00,5.881000e-03,3.483242e+00,5.901000e-03,3.511368e+00,5.921000e-03,3.539462e+00,5.941000e-03,3.567525e+00,5.961000e-03,3.595556e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw 0 1.000000e+06
Gnw  0 vout nw 0 {gnw}      $ white floor
Rn1  nk1 0 1.000000e+06
Cn1  nk1 0 1.009652e-08        $ corner 15.76 Hz
Gn1  0 vout nk1 0 {gn1}
Rn2  nk2 0 1.000000e+06
Cn2  nk2 0 8.899908e-10        $ corner 178.8 Hz
Gn2  0 vout nk2 0 {gn2}
Rn3  nk3 0 1.000000e+06
Cn3  nk3 0 8.308389e-11        $ corner 1916 Hz
Gn3  0 vout nk3 0 {gn3}
Rn4  nk4 0 1.000000e+06
Cn4  nk4 0 4.052780e-12        $ corner 3.927e+04 Hz
Gn4  0 vout nk4 0 {gn4}
Rn5  nk5 0 1.000000e+06
Cn5  nk5 0 4.437075e-13        $ corner 3.587e+05 Hz
Gn5  0 vout nk5 0 {gn5}
Rn6  nk6 0 1.000000e+06
Cn6  nk6 0 2.218682e-13        $ corner 7.173e+05 Hz
Gn6  0 vout nk6 0 {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-1.05), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf 0 DC 1.05               $ nominal-vin reference (model fit at vin=1.05)
Gd   0   vout vin vrf {G0}         $ feedthrough  G0*(vin-1.05)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to 1.05
Gs1  0   vout np1 vrf {G1}         $ G1*(LP1(vin)-1.05)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  0   vout np2 vrf {G2}         $ G2*(LP2(vin)-1.05)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  0   vout np3 vrf {G3}         $ G3*(LP3(vin)-1.05)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 0 vout ncs2 vrf {pcb0}        $ inject b0*x
Gqb1 0 vout vin  ncs1 {gqb1}       $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

